US07157488B2
2-(3-(α-Fluorobenzyl)phenyl)-[1,3]-dioxolane
Combine (3-[1,3]-dioxolan-2-ylphenyl)phenylmethanol (2.3 g, 8.9 mmol) and dichloromethane (50 ml). Cool to about −78° C. Add dropwise a solution of (diethylamino)sulfur trifluoride (1.7 ml, 12.9 mmol). After 10 minutes, quench with water and extract with dichloromethane. Combine the organic layers and wash sequentially with distilled water and brine and then dry (Na2SO4), filter, and concentrate to give a residue. Chromatograph the residue eluting with 7:3 hexane:EtOAc to give the title compound.

reactant | (3-[1,3]-dioxolan-2-ylphenyl)phenylmethanol | 8.9 mmol, 2.3 g | O1C(OCC1)C=1C=C(C=CC1)C(O)C1=CC=CC=C1 | C16H16O3
reactant | (diethylamino)sulfur trifluoride | 12.9 mmol, 1.7 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(3-(α-Fluorobenzyl)phenyl)-[1,3]-dioxolane | FC(C1=CC=CC=C1)C=1C=C(C=CC1)C1OCCO1 | C16H15FO2
